************************************************************************
* auCdl Netlist:
* 
* Library Name:  InverterBasedTransceiver
* Top Cell Name: Inverter2
* View Name:     schematic
* Netlisted on:  Sep  6 15:19:00 2020
************************************************************************

.INCLUDE  $PDK_HOME/LVS/Calibre/source.cdl
*.EQUATION
*.SCALE METER
.PARAM



************************************************************************
* Library Name: InverterBasedTransceiver
* Cell Name:    Inverter2
* View Name:    schematic
************************************************************************

.SUBCKT Inverter2 GND INP OUT VDD
*.PININFO INP:I OUT:O GND:B VDD:B
mMP17 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP16 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP15 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP14 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP13 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP12 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP11 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP10 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP9 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP8 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP7 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP6 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP5 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP4 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP3 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP2 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP1 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP0 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN8 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN7 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN6 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN5 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN4 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN3 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN2 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN1 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN0 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
.ENDS

